US04362510
The n-decyl vanillate was synthesized by refluxing decyl alcohol with vanillic acid in the presence of p-toluenesulfonic acid. After removal of the unreacted alcohol, purification and recrystallization from n-pentane, the n-decyl vanillate had a melting point of 40°-40.5° C. (Yield: about 50%).

reactant | decyl alcohol | C(CCCCCCCCC)O | C10H22O
reactant | vanillic acid | C(C1=CC(OC)=C(O)C=C1)(=O)O | C8H8O4
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | n-decyl vanillate | Yield: about 50% | C(C1=CC(OC)=C(O)C=C1)(=O)OCCCCCCCCCC | C18H28O4
